US08044213B2
To a mixture of 2-[2-amino-5-(4-methyl-piperazin-1-ylmethyl)-phenylamino]-4-phenyl-thiazole-5-carboxylic acid ethyl ester (VII.1a) from previous step and 0.2 mL of acetic acid was added 0.2 mL of triethyl orthoformate. The reaction mixture was heated to 60 degrees for 1 hour, and then concentrated under reduced pressure. The residue was diluted with 10 mL of water and 2 mL of saturated sodium bicarbonate and then extracted three times with 5 mL of dichloromethane. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with methanol-dichloromethane (gradient 0:100-10:90) to give 0.041 g of 2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-4-phenyl-thiazole-5-carboxylic acid ethyl ester (I.1a) as a white solid.

reactant | 2-[2-amino-5-(4-methyl-piperazin-1-ylmethyl)-phenylamino]-4-phenyl-thiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)NC1=C(C=CC(=C1)CN1CCN(CC1)C)N)C1=CC=CC=C1 | C24H29N5O2S
reactant | triethyl orthoformate | 0.2 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
product | 2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 0.041 g | C(C)OC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C=C2)CN2CCN(CC2)C)C2=CC=CC=C2 | C25H27N5O2S
